US06114532
c. [1-(4-methylamino-3-nitro-phenyl)-cyclopropan-1-yl]-pyridin-2-yl-methanone
Prepared analogously to Example 231d from [1-(4-chloro-3-nitro-phenyl)-cyclopropan-1-yl]-pyridin-2-yl-methanone and methylamine in isopropanol.

reactant | [1-(4-chloro-3-nitro-phenyl)-cyclopropan-1-yl]-pyridin-2-yl-methanone | ClC1=C(C=C(C=C1)C1(CC1)C(=O)C1=NC=CC=C1)[N+](=O)[O-] | C15H11ClN2O3
reactant | methylamine | CN | CH5N
solvent | isopropanol | C(C)(C)O | C3H8O
product | [1-(4-methylamino-3-nitro-phenyl)-cyclopropan-1-yl]-pyridin-2-yl-methanone | CNC1=C(C=C(C=C1)C1(CC1)C(=O)C1=NC=CC=C1)[N+](=O)[O-] | C16H15N3O3
